US08314100B2
1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine (Compound 152)
Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate and 1-(3,5-dimethoxyphenyl piperazine were reacted by the same way with the example 148 to obtain the titled compound (yield, 86%). MS (ESI) m/z 454 (M+1).

reactant | Ethyl N-(3,6-dimethoxyquinoxalin-2-yl)carbamate | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(OCC)=O | C13H15N3O4
reactant | 3,5-dimethoxyphenyl piperazine | COC=1C=C(C=C(C1)OC)N1CCNCC1 | C12H18N2O2
product | 1-[(3,6-Dimethoxyquinoxalin-2-yl)aminocarbonyl]-4-(3,5-dimethoxyphenyl)piperazine | 86% | COC=1C(=NC2=CC=C(C=C2N1)OC)NC(=O)N1CCN(CC1)C1=CC(=CC(=C1)OC)OC | C23H27N5O5
